US08314100B2
1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-(2,6-dimethylphenyl)piperazine (Compound 156)
Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate and 1-(2,6-dimethylphenyl)piperazine were reacted by the same way with the example 148 to obtain the titled compound (yield, 91%). 1H NMR (300 MHz, CDCl3): δ 2.36 (s, 6H), 3.17-3.21 (m, 4H), 3.68-3.71 (m, 4H), 3.91 (s, 3H), 4.14 (s, 3H), 6.95-7.03 (m, 3H), 7.14-7.21 (m, 3H), 7.77-7.80 (m, 1H).

reactant | Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(OCC)=O | C13H15N3O4
reactant | 1-(2,6-dimethylphenyl)piperazine | CC1=C(C(=CC=C1)C)N1CCNCC1 | C12H18N2
product | 1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-(2,6-dimethylphenyl)piperazine | 91% | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1C)C | C23H27N5O3
